US05541187
4-Quinolinecarboxylic acid chloride hydrochloride (3.8 g, 16.5 mmol) and 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carbonitrile (2.8 g, 13.7 mmol) were combined and heated in an oil bath at 250° C. for 7 minutes. The reaction mixture was cooled to room temperature and the obtained solid was collected by filtration on a glass frit and was washed with chloroform. The residue was recrystallized from ethyl acetate to afford 5.0 g (100%) of 1-cyclopentyl-3-ethyl-4-cyano-5-(4-quinoline-carboxamido)-1H-pyrazole as a white solid, m.p. 156°-161° C., after drying at 110° C. for 7 hours in high vacuum.

reactant | 4-Quinolinecarboxylic acid chloride hydrochloride | 16.5 mmol, 3.8 g | Cl.N1=CC=C(C2=CC=CC=C12)C(=O)Cl
reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carbonitrile | 13.7 mmol, 2.8 g | C1(CCCC1)N1N=C(C(=C1N)C#N)CC | C11H16N4
product | 1-cyclopentyl-3-ethyl-4-cyano-5-(4-quinoline-carboxamido)-1H-pyrazole | 5.0 g, 100% | C1(CCCC1)N1N=C(C(=C1NC(=O)C1=CC=NC2=CC=CC=C12)C#N)CC | C21H21N5O
